US06562978B1
To a mixture of phenylformamide (49.6 g, 410 mmol), 1-bromo-3-chloropropane (75.4 g, 490 mmol) in acetone (400 mL) was added CsCO3 (156.4 g, 480 mmol) and the resulting mixture was stirred at reflux temperature for 14 hours. The reaction mixture was filtered and the filtrate was concentrated under reduced pressure. Ethyl acetate (400 mL) and water (150 mL) were added to the residue and the organic layer was washed with brine (150 mL), dried over MgSO4, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane-ethyl acetate, 1/0 to 10/3, v/v) to give 3-chloropropyl(phenyl)formamide (69.1 g, 350 mmol) as pale yellow oil. Yield: 85%. To a solution of this pale yellow oil (36.2 g, 180 mmol) in 2-propanol (140 mL) was added conc. HCl (25 mL) and the mixture was stirred at 70° C. for 3 hours. The reaction mixture was cooled to r.t. and diisopropyl ether (140 mL) was added. The resulting mixture was allowed to stand at r.t. for 12 hours, that led precipitation of crystals. The crystals were collected by filtration and washed with diisopropyl ether (10 mL×2) to give N-(3-chloropropyl)aniline hydrochloride (13.7 g, 57 mmol) as colorless needles. The combined filtrates were concentrated under reduced pressure and recrystallized from diisopropyl ether-2-propanol (1/2, v/v) to give N-(3-chloropropyl)aniline hydrochloride (19.5 g, 81 mmol). Yield: 76%. From N-(3-chloropropyl)aniline hydrochloride (5.0 g, 21 mmol), using a similar procedure to that described for reference example 57, the title compound (7.0 g, 19 mmol) was obtained as colorless crystals. Yield: 90%.

reactant | phenylformamide | 410 mmol, 49.6 g | C1(=CC=CC=C1)NC=O | C7H7NO
reactant | 1-bromo-3-chloropropane | 490 mmol, 75.4 g | BrCCCCl | C3H6BrCl
solvent | acetone | 400 mL | CC(=O)C | C3H6O
product | 3-chloropropyl(phenyl)formamide | 350 mmol, 69.1 g, Yield: 85% | ClCCCN(C=O)C1=CC=CC=C1 | C10H12ClNO
